US06166006
A mixture of (3-methoxymethoxypyridin-2-yl)-(4-nitrophenyl)methanol (11.78 g) and 10% Pd-C (1.2 g) in ethanol (100 ml) was vigorously stirred under hydrogen atmosphere for 24 hours. The catalyst was filtered of, and the filtrate was concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate/hexane=1:1→2:1) to give 2-(4-aminobenzyl)-3-methoxymethoxypyridine (2.92 g) as orange oil.

reactant | (3-methoxymethoxypyridin-2-yl)-(4-nitrophenyl)methanol | 11.78 g | COCOC=1C(=NC=CC1)C(O)C1=CC=C(C=C1)[N+](=O)[O-] | C14H14N2O5
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Pd-C | 1.2 g | [Pd] | Pd
product | 2-(4-aminobenzyl)-3-methoxymethoxypyridine | 2.92 g | NC1=CC=C(CC2=NC=CC=C2OCOC)C=C1 | C14H16N2O2
